US07381719B2
6-[4-(2-Benzylamino-1-methyl-ethyl)-phenoxy]-nicotinamide
Using a method similar to example 1, 4-(2-benzylamino-1-methyl-ethyl)-phenol is reacted with 6-chloronicotinamide to afford the title compound. The crude product is purified by flash chromatography on silica gel eluting with 0.7% concentrated ammonium hydroxide/7% ethanol/chloroform gives the title compound: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 4.52 minutes, Purity: 99.1%; mass spectrum (ion spray): m/z=362.2 (M+1).

reactant | 4-(2-benzylamino-1-methyl-ethyl)-phenol | C(C1=CC=CC=C1)NCC(C)C1=CC=C(C=C1)O | C16H19NO
reactant | 6-chloronicotinamide | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
product | 6-[4-(2-Benzylamino-1-methyl-ethyl)-phenoxy]-nicotinamide | C(C1=CC=CC=C1)NCC(C)C1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C22H23N3O2
